US08580841B2
Step C: Preparation of Ethyl 2-(2-Oxocyclopentyl)acetate.
To a solution of 2-(2-oxocyclopentyl)acetic acid (23.6 g, 166 mmol) in absolute ethanol (400 mL) was added H2SO4 (16.28 g, 166 mmol). The resultant solution was heated under reflux overnight. The reaction mixture was concentrated and the liquid residue was added into ice-water (200 mL). The aqueous mixture was extracted with DCM (3×200 mL). The combined organic layers were washed with H2O (300 mL), brine (300 mL), dried over Na2SO4, decanted, concentrated and dried under vacuum to afford the title compound as a light yellow liquid (27.2 g). LCMS m/z=171.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.19 (t, J=7.14 Hz, 3 H), 1.50-1.62 (m, 1 H), 1.65-1.80 (m, 1 H), 1.92-2.02 (m, 1 H), 2.12 (dd, J=16.7, 8.86 Hz, 1 H), 2.19-2.29 (m, 2 H), 2.30-2.44 (m, 2 H), 2.65 (dd, J=15.12, 2.6 Hz, 1H), 4.07 (q, J=7.14 Hz, 2H).

reactant | 2-(2-oxocyclopentyl)acetic acid | 166 mmol, 23.6 g | O=C1C(CCC1)CC(=O)O | C7H10O3
reactant | H2SO4 | 166 mmol, 16.28 g | OS(=O)(=O)O | H2O4S
reactant | ethanol | 400 mL | C(C)O | C2H6O
product | Ethyl 2-(2-Oxocyclopentyl)acetate | 27.2 g | O=C1C(CCC1)CC(=O)OCC | C9H14O3
